US07541374B2
2.97 g of 4-bromo-1H-pyrazole-1-ylmethanol was dissolved to 100ml of dichloromethane. 5 ml of thionyl chloride was added to the solution, followed by stirring at room temperature for overnight. The reaction mixture was concentrated under reduced pressure to obtain 3.27 g of 4-bromo-1-(chloromethyl)-1H-pyrazole hydrochloride.

reactant | 4-bromo-1H-pyrazole-1-ylmethanol | 2.97 g | BrC=1C=NN(C1)CO | C4H5BrN2O
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 100ml | ClCCl | CH2Cl2
product | 4-bromo-1-(chloromethyl)-1H-pyrazole hydrochloride | 3.27 g | Cl.BrC=1C=NN(C1)CCl | InChI=1S/C4H4BrClN2.ClH/c5-4-1-7-8(2-4)3-6;/h1-2H,3H2;1H
